* source CMRR
R_R33         0 N50237  100 TC=0,0 
V_V10         V+ 0 25
R_R38         N50077 N50085  100K TC=0,0 
R_R40         N50419 V-  20K TC=0,0 
R_R34         N50305 N50077  100K TC=0,0 
C_C17         0 N50305  1u  TC=0,0 
R_R37         N50361 N50085  10K TC=0,0 
X_U11B         N50419 N50077 15+ 15- N50085 LM324
R_R35         0 N50361  100 TC=0,0 
C_C16         N50077 N50085  1u  TC=0,0 
V_V11         V- 0 -5
X_U10D         N50361 N50237 V- V+ N50305 LM324
R_R39         V+ N50419  20K TC=0,0 
V_V1         15+ 0 15Vdc
V_V2         15- 0 -15Vdc
