* source MC34060
X_U1         N14534 N14374 0 N14846 N14374 N14999 0 N14386 MC33063A PARAMS:
+  PERIOD=30u
R_R1         N14386 N14374  200 TC=0,0 
C_C1         0 N14534  1.1n  TC=0,0 
R_R2         0 N14846  10k TC=0,0 
R_R3         N15228 N14846  86k TC=0,0 
R_R4         N14374 N14986  180 TC=0,0 
D_D1         N15220 N15228 SS16 
D_D2         N15240 N15220 SS16 
D_D3         N15222 N15228 SS16 
D_D4         N15240 N15222 SS16 
C_C2         N15228 0  1u  TC=0,0 
C_C3         0 N15240  1u  TC=0,0 
V_V1         N14386 0 25Vdc
T_T3         N14986 N14999 N15220 0 Z0=   
T_T4         N14986 N14999 0 N15222 Z0=   
